US05854262
C. Methyl-2-methoxy-5-benzamidobenzoate
A solution of 9.92 grams (55 mmol) of methyl-2-methoxy-5-aminobenzoate was taken up in 250 ml methylene chloride, treated with 8.4 mL (61 mmol) triethylamine and cooled to 0° C. The reaction mixture was then treated with 8.1 grams (57 mmol) benzoyl chloride in a dropwise fashion. The reaction mixture was stirred for 30 minutes while warming to room temperature. The reaction mixture was diluted with 500 mL of methylene chloride, washed with 200 mL saturated bicarbonate solution and then rewashed with water and brine. The organic phase was dried and evaporated to a flaky white solid (15.7 grams). This material was used without further purification.

reactant | methyl-2-methoxy-5-aminobenzoate | 55 mmol, 9.92 grams | COC(C1=C(C=CC(=C1)N)OC)=O | C9H11NO3
reactant | triethylamine | 61 mmol, 8.4 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 57 mmol, 8.1 grams | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | Methyl-2-methoxy-5-benzamidobenzoate | COC(C1=C(C=CC(=C1)NC(C1=CC=CC=C1)=O)OC)=O | C16H15NO4
